US04939144
(E)-3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methylene]-1(2H)-dibenzothiophenone
Lithium diisopropylamide mono(tetrahydrofuran) (1.5M in cyclohexane; 3.6 ml) was added dropwise to a solution of 3,4-dihydro-1(2H)-dibenzothiophenone (1.0 g) in dry THF (30 ml) at -65°. The resultant solution was stirred at -65° for 1 h and 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde (1.9 g) was then added. The reaction mixture was stirred for a further 1.5 h, whilst it was allowed to warm to 0°. The solution was quenched with acetic acid (6 ml) and the resultant suspension was treated with water (10 ml) and p-toluenesulphonic acid (10.2 g). The reaction mixture was heated at reflux for 17 h, added cautiously to 8% aqueous sodium bicarbonate (300 ml), and extracted with dichloromethane (2×120 ml). The combined organic extracts were dried and evaporated to give an oil which was heated at reflux in a mixture of trifluoroacetic acid (60 ml) and concentrated sulphuric acid (0.3 ml) for 40 min. The reaction mixture was concentrated in vacuo to ca. 10 ml, added cautiously to 8% aqueous sodium bicarbonate (300 ml) and the resultant suspension was extracted with dichloromethane (2×120 ml). The combined organic extracts were dried and evaporated to give a foam which was purified by FCC eluting with System A (100:5:0.5) to give the title compound (648 mg) as a solid, m.p. 220°-223°.

reactant | Lithium diisopropylamide mono(tetrahydrofuran) | 1.5M, 3.6 ml | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | 3,4-dihydro-1(2H)-dibenzothiophenone | 1.0 g | C1(CCCC=2SC3=C(C21)C=CC=C3)=O | C12H10OS
reactant | 5-methyl-1-(triphenylmethyl)-1H-imidazole-4-carboxaldehyde | 1.9 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=O | C24H20N2O
reactant | sulphuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | trifluoroacetic acid | 60 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (E)-3,4-Dihydro-2-[(5-methyl-1H-imidazol-4-yl)methylene]-1(2H)-dibenzothiophenone | 648 mg | CC1=C(N=CN1)\C=C/1\C(C2=C(SC3=C2C=CC=C3)CC1)=O | C17H14N2OS
